US08044216B2
Synthesis of 2-(chloromethyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To the mixture of triisopropyl borate (15 ml, 65 mmol), chloroiodomethane (13 g, 72 mmol), and tetrahydrofuran (78 ml), n-butyllithium (a 1.6 M n-hexane solution, 41 ml, 65 mmol) was added dropwise at −78° C. (an outer temperature) for 20 min. and then the obtained mixture was stirred at room temperature for 2.5 hours. The reaction mixture was cooled to 0° C. (an outer temperature), and a 4 N hydrochloric acid-ethyl acetate solution was added dropwise thereto at the same temperature until the reaction mixture became neutral. At the same temperature, pinacol (7.7 g, 65 mmol) was added to the reaction mixture, and then the reaction mixture was stirred at room temperature for 40 min. The solvents were evaporated under reduced pressure, and then the obtained residue was distilled under reduced pressure (63-70° C., 11 mmHg), thereby obtaining the entitled compound (9.2 g, 52 mmol, 81%).

reactant | triisopropyl borate | 65 mmol, 15 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | chloroiodomethane | 72 mmol, 13 g | ClCI | CH2ClI
reactant | n-butyllithium | C(CCC)[Li]
reactant | hydrochloric acid ethyl acetate | 4 N | Cl.C(C)(=O)OCC
reactant | pinacol | 65 mmol, 7.7 g | OC(C)(C)C(C)(C)O | C6H14O2
solvent | n-hexane | 1.6 M | CCCCCC | C6H14
solvent | tetrahydrofuran | 78 ml | O1CCCC1 | C4H8O
product | 2-(chloromethyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 52 mmol, 9.2 g, 81% | ClCB1OC(C(O1)(C)C)(C)C | C7H14BClO2
